US04550107
(S)-5,10-Dihydro-5-[[2-[(4-methyl-1-piperazinyl)methyl]-1-pyrrolidinyl]-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
The title compound is prepared analogously to Example 31 from 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and (S)-(+)-2-[(4-methyl-1-piperazinyl)methyl]pyrrolidine to give colorless crystals, mp. 168°-170° C. (ethyl acetate). [α]D20 =-18.9° C. (ethanol). RF 0.33 (Merck ready-made TLC plates, silica gel 60 F-254; eluant: dichloromethane/methanol/cyclohexane/conc. ammonia [120:24:30:2]). A second isomer (RF 0.30) can be detected in the mother liquors by thin layer chromatography.

reactant | 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11ClN2O2
reactant | (S)-(+)-2-[(4-methyl-1-piperazinyl)methyl]pyrrolidine | CN1CCN(CC1)C[C@H]1NCCC1 | C10H21N3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonia | N | H3N
solvent | dichloromethane methanol cyclohexane | ClCCl.CO.C1CCCCC1
solvent | ethanol | C(C)O | C2H6O
product | (S)-5,10-Dihydro-5-[[2-[(4-methyl-1-piperazinyl)methyl]-1-pyrrolidinyl]-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CCN(CC1)C[C@H]1N(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C25H31N5O2
